US06518423B1
8-(Tetrazol-5-yl)10H-pyrazino[2,3-b][1,4]benzothiazine
40 mg of 8-(tetrazol-5-yl)-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine was heated 5 ml of glacial acetic acid to 60° C. for 30 minutes. After the completion of the reaction, silica gel was added thereto. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol/acetic acid) to thereby give 18 mg of the title compound as yellow crystals.

reactant | 8-(tetrazol-5-yl)-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 40 mg | N1N=NN=C1C=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C13H11N7OS
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 8-(Tetrazol-5-yl)10H-pyrazino[2,3-b][1,4]benzothiazine | 18 mg | N1N=NN=C1C=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C11H7N7S
